US04168269
6,7-Dichloro-9,10-dihydro-9-methyl-4H-thieno[3,4-b][1,5]benzodiazepine
To a suspension of 4 g. of lithium aluminum hydride in 150 ml. of tetrahydrofuran stirred under nitrogen, is added a solution of 10 g. of 6,7-dichloro-4,9-dihydro-9-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one in 350 ml. of tetrahydrofuran. The mixture is stirred under reflux for 31/2 hours and then allowed to stand overnight. The mixture is cooled in an ice bath and treated, under nitrogen with stirring, with 4 ml. of water, 4 ml. of 15% sodium hydroxide and 12 ml. of water. The complex is filtered and washed with ether. The combined filtrate and washing is dried over sodium sulfate, filtered and concentrated to a residue. This residue is dissolved in a mixture of 10 ml. of 30% methylene chloride in hexane and 10 ml. of methylene chloride and chromatographed on an alumina column as described in Example 20. Those fractions which contain the desired product as determined by thin layer chromatography are combined and concentrated to give a blue-green crystalline solid. The crystalline product is heated to the boil in 200 ml. of hexane, and filtered. The filtrate is cooled and an standing produces a solid which is collected, washed with hexane and dried giving the desired product, mp. 92°-93° C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 6,7-dichloro-4,9-dihydro-9-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClC1=CC2=C(N(C(C=3C(N2)=CSC3)=O)C)C=C1Cl | C12H8Cl2N2OS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 6,7-Dichloro-9,10-dihydro-9-methyl-4H-thieno[3,4-b][1,5]benzodiazepine | ClC1=CC2=C(N(CC=3C(N2)=CSC3)C)C=C1Cl | C12H10Cl2N2S
